US08461170B2
3-(5-Bromo-2-chloropyrimidin-4-yl)-1H-indole
Starting materials: 5-bromo-2,4-dichloropyrimidine and 1H-indole. m/z 309.

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 3-(5-Bromo-2-chloropyrimidin-4-yl)-1H-indole | BrC=1C(=NC(=NC1)Cl)C1=CNC2=CC=CC=C12 | C12H7BrClN3
